US05021482
690 g N-aminoethylpiperazine (equivalent weight 64.8; 10.7 equivalents);
and 421 g triethylenetetraamine (equivalent weight 39.5; 10.7 equivalents) under a nitrogen atmosphere. The reactants were stirred by an agitator provided in the reactor and heated. As soon as water of condensation appeared in the reactor, the nitrogen gas supply was stopped and the temperature increased to bring the reaction mixture to reflux. The reaction was allowed to continue at a reflux temperature of between 190° C. and 250° C. at atmospheric pressure. The acid value of the reaction mixture was monitored and upon reaching an acid value of 2, the reactor was subjected to a mild vacuum. This was continued until the reaction pressure was reduced to 5 mm Hg. The reaction was continued at these thermodynamic conditions, 190° C. to 250° C. and 5 mm Hg, until the reaction mixture acid value dropped below 1.0.. At that time the reactor was cooled to 150° C., atmospheric pressure was reinstituted, by the addition of nitrogen gas, and Hisol (Ashland Oil Co., highly aromatic solvent) was added to acceptable handling viscosity. The addition of the Hisol permitted cooling of the reaction mixture to ambient temperature. The product of this reaction was a liquid weighing 9,520 g.

reactant | triethylenetetraamine | 421 g, 10.7 equivalents | NCCNCCNCCN | C6H18N4
reactant | Hisol | N[C@@H](CC1=CNC=N1)CO | C6H11N3O
solvent | water | O | H2O
product | N-aminoethylpiperazine | NCCN1CCNCC1 | C6H15N3
